US04076821
A mixture of 6.1 g of 4,4-bis(p-fluorophenyl)-1-chloro-2-cyclohexene (m.p. 39°-42° C), 5.0 g of 1-(4-piperidyl)-5-chloro-2-benzimidazolinone, 2.8 g of potassium carbonate, 3.3 g of potassium iodide and 50 ml of dimethylformamide is stirred at 65°-70° C for 3 hours. The reaction mixture is poured into water, and the precipitated powder is collected by filtration, dried and dissolved in a mixture of chloroform and methanol (9:1). The solvent is then removed, and the precipitate is collected by filtration and purified in the same manner to give 1-[1-(4,4-bis(p-fluorophenyl)-2-cyclohexenyl)-4-piperidyl]-5-chloro-2-benzimidazolinone as white crystalline powder, melting at 153°-157° C. This white crystalline powder, when recrystallized from a mixture of ethanol and methanol (7:3), turns into white crystals showing a melting point of 217°-219° C.

reactant | 4,4-bis(p-fluorophenyl)-1-chloro-2-cyclohexene | 6.1 g | FC1=CC=C(C=C1)C1(C=CC(CC1)Cl)C1=CC=C(C=C1)F | C18H15ClF2
reactant | 1-(4-piperidyl)-5-chloro-2-benzimidazolinone | 5.0 g | N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C12H14ClN3O
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.3 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[1-(4,4-bis(p-fluorophenyl)-2-cyclohexenyl)-4-piperidyl]-5-chloro-2-benzimidazolinone | FC1=CC=C(C=C1)C1(C=CC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O)C2=CC=C(C=C2)F | C30H28ClF2N3O
